US07842696B2
Ammonium formate (107 mg, 1.6985 mmoles) was added to a mixture of 4-benzyloxy-N-[2-oxo-2-(4-phenylacetyl-piperazin-1-yl)-ethyl]-benzamide (80 mg, 0.17 mmol) in MeOH (15 mL). Pd/C (30 mg in 3 drops of water) was then added and the resulting mixture was refluxed at 75° C. for three hours. The reaction mixture was then filtered through a bed of celite under reduced pressure. The methanol was removed and EtOAc and water were added. The organic layer was extracted, washed with brine, dried over sodium sulphate and concentrated to afford 4-hydroxy-N-[2-oxo-2-(4-phenylacetyl-piperazin-1-yl)-ethyl]-benzamide in 70% yield. LC-MS purity 94.82%. 1H NMR (DMSO-D6): δ 10 (s, 1H), 8.3 (s, 1H), 7.7 (d, 2H), 7.3 (t, 2H), 7.2 (d, 2H), 6.8 (d, 2H), 4.1 (d, 2H), 3.8 (d, 2H), 3.5 (m, 8H).

reactant | Ammonium formate | 1.6985 mmoles, 107 mg | C(=O)[O-].[NH4+]
reactant | 4-benzyloxy-N-[2-oxo-2-(4-phenylacetyl-piperazin-1-yl)-ethyl]-benzamide | 0.17 mmol, 80 mg | C(C1=CC=CC=C1)OC1=CC=C(C(=O)NCC(N2CCN(CC2)C(CC2=CC=CC=C2)=O)=O)C=C1 | C28H29N3O4
solvent | MeOH | 15 mL | CO | CH4O
catalyst | Pd/C | 3 drops, 30 mg | [Pd] | Pd
product | 4-hydroxy-N-[2-oxo-2-(4-phenylacetyl-piperazin-1-yl)-ethyl]-benzamide | 70% yield | OC1=CC=C(C(=O)NCC(N2CCN(CC2)C(CC2=CC=CC=C2)=O)=O)C=C1 | C21H23N3O4
